US09376441B2
To an appropriate sized microwave vial, 6-bromopyrazolo[1,5a]pyridin-4-ol (100 mg, 0.469 mmol), 1-(tert-butyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (153 mg, 0.612 mmol), cesium carbonate (459 mg, 1.41 mmol), dioxane (3.0 mL) and water (1.5 mL) were added. The mixture was degassed with nitrogen for 10 minutes. PEPPSI-iPr catalyst (32.0 mg, 0.0469 mmol) was added and the solution was heated at 100° C. for 18 h. After cooling to room temperature, the mixture was poured into water, neutralized to pH 7 and extracted with ethyl acetate. The combined organic layers were washed with brine, dried, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to afford 6-(1-tert-butyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol.

reactant | 1-(tert-butyl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.612 mmol, 153 mg | C(C)(C)(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C13H23BN2O2
reactant | cesium carbonate | 1.41 mmol, 459 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dioxane | 3.0 mL | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 1.5 mL | O | H2O
product | 6-(1-tert-butyl-1H-pyrazol-4-yl)pyrazolo[1,5-a]pyridin-4-ol | C(C)(C)(C)N1N=CC(=C1)C=1C=C(C=2N(C1)N=CC2)O | C14H16N4O
